US09260442B2
To 0.1 g (0.00025 mole) of tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate in acetonitrile (2 mL) was added 1,3-Diiodo-5,5-dimethylhydantoin (95 mg, 1 eq), and solid NaHCO3 (63 mg, 3 eq). Stir at room temperature for 16 hrs. Filter, concentrate and then column with hexane/ethylacetate (0-50%) to afford tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)-5-iodo-pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate as a pale yellow solid 0.03 g. LCMS (ESI) 525 (M+H).

reactant | tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate | 0.00025 mole, 0.1 g | ClC=1N=CC2=C(N1)N(C(=C2)C(OCC)OCC)CCNC(OC(C)(C)C)=O | C18H27ClN4O4
reactant | 1,3-Diiodo-5,5-dimethylhydantoin | 95 mg, 1 eq | IN1C(=O)N(C(=O)C1(C)C)I | C5H6I2N2O2
reactant | NaHCO3 | 63 mg, 3 eq | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | tert-butyl N-[2-[2-chloro-6-(diethoxymethyl)-5-iodo-pyrrolo[2,3-d]pyrimidin-7-yl]ethyl]carbamate | 0.03 g | ClC=1N=CC2=C(N1)N(C(=C2I)C(OCC)OCC)CCNC(OC(C)(C)C)=O | C18H26ClIN4O4
